US07576109B2
Intermediate: 4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxymethyl]-2-fluoro-benzoic acid methyl ester
To a solution of [4-butyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-yl]-methanol (1.02 g, 3.24 mmol) in anhydrous DMF (150 mL) add cesium carbonate (2.7 g, 8.10 mmol) and 4-bromomethyl-2-fluoro-benzoic acid methyl ester (0.8 g, 3.24 mmol). Stir the resulting mixture overnight then pour into a 1M aqueous solution of potassium hydrogenophosphate and extracted three times with diisopropyl ether. Wash the combined extracts with water, dry over MgSO4, filter and concentrate under vacuum. Purify the residue by flash chromatography on silica gel (eluting with a gradient of heptane/ethyl acetate) to give the title compound (0.3 g) as a yellow solid.

reactant | [4-butyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-yl]-methanol | 3.24 mmol, 1.02 g | C(CCC)C=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C15H16F3NOS
reactant | cesium carbonate | 8.10 mmol, 2.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-bromomethyl-2-fluoro-benzoic acid methyl ester | 3.24 mmol, 0.8 g | COC(C1=C(C=C(C=C1)CBr)F)=O | C9H8BrFO2
reactant | potassium | [K] | K
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxymethyl]-2-fluoro-benzoic acid methyl ester | 0.3 g | COC(C1=C(C=C(C=C1)COCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCCC)F)=O | C24H23F4NO3S
